US04999436
A solution of methyl Z-3-(2'methylphenyl)-3-benzylthio-2-propenoate (575 mg, 1.93 mmol) in 6.0 mL of THF was added through a double ended needle to a solution of potassium tert-butoxide (650 mg, 5.79 mmol) in 8.0 mL of THF at ambient temperature. An additional 2×1 mL of THF was used to rinse the ester into the reaction. The bright orange-green reaction as stirred 20 minutes at 25° C., then cooled in an ice bath and quenched by the addition of 3.5 mL of 2.0 N aqueous hydrochloric acid. The reaction was poured into 25 mL of saturated aqueous sodium chloride and extracted with 2×25 mL of ethyl acetate. The ethyl acetate layers were washed in succession with 25 mL of saturated aqueous sodium chloride, combined, dried over sodium sulfate, decanted, and evaporated. Flash column chromatography on 15 g of silica gel eluted with 500 mL of 3% ethyl acetate in hexane followed by 200 mL of 6% ethyl acetate in hexane gave 3-hydroxy-5-(2'-methylphenyl)-2-phenylthiophene as 385 mg of pale yellow viscous oil (75% yield). The product could be distilled bulb to bulb, bp (0.4 mm) 140° -150° C.

reactant | methyl Z-3-(2'methylphenyl)-3-benzylthio-2-propenoate | 1.93 mmol, 575 mg | CC1=C(C=CC=C1)/C(=C/C(=O)OC)/SCC1=CC=CC=C1 | C18H18O2S
reactant | potassium tert-butoxide | 5.79 mmol, 650 mg | CC(C)([O-])C.[K+]
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-5-(2'-methylphenyl)-2-phenylthiophene | OC1=C(SC(=C1)C1=C(C=CC=C1)C)C1=CC=CC=C1 | C17H14OS
